US07777047B2
N-[2-(benzylthio)-3,3-dimethoxypropyl]-5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxamide
A mixture of 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylic acid (4.7 g), 2-(benzylthio)-3,3-dimethoxypropan-1-amine (4.9 g), 1H-1,2,3-benzotriazol-1-ol (3.4 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (4.9 g) and N,N-dimethylformamide (150 mL) was stirred at room temperature for 15 hr. The reaction solution was concentrated under reduced pressure, ethyl acetate and water were added, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed successively with aqueous citric acid solution, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=20:80-80:20) to give the title compound (6.8 g, yield 97%) as a orange oil.

reactant | 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylic acid | 4.7 g | COCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)O | C12H12N2O6
reactant | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 4.9 g | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 3.4 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 4.9 g | Cl.CN(CCCN=C=NCC)C
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | N-[2-(benzylthio)-3,3-dimethoxypropyl]-5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxamide | 6.8 g, yield 97% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)[N+](=O)[O-])C(OC)OC | C24H29N3O7S
